US07192968B2
(±)-cis-N-[(5-Chloroindol-2-yl)carbonyl]-1,2-cyclopropanediamine
1-Hydroxybenzotriazole monohydrate (377 mg), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (642 mg) and diisopropylethylamine (1.95 ml) were added to cis-1,2-cyclopropanediamine hydrochloride (J. Med. Chem., 1998, Vol. 41, pp. 4723-4732) (405 mg) and a solution of 5-chloroindole-2-carboxylic acid (546 mg) in N,N-dimethylformamide (10 ml) at room temperature, and the mixture was stirred for 50 hours. After the reaction mixture was concentrated under reduced pressure, dichloromethane (50 ml) and a saturated solution (200 ml) of sodium hydrogencarbonate were added to separate colorless solid deposited by filtration. An organic layer of the filtrate was separated and the water layer was extracted with dichloromethane. After the resultant organic layers were combined and dried over anhydrous sodium sulfate, the solvent was distilled off under reduced pressure to obtain residue. The residue was purified by medium-pressure flash column chromatography on silica gel (dichloromethane:methanol=100:7→10:1) to obtain the title compound (110 mg) as a colorless solid.

reactant | 1-Hydroxybenzotriazole monohydrate | 377 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 642 mg | Cl.CN(CCCN=C=NCC)C
reactant | diisopropylethylamine | 1.95 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | cis-1,2-cyclopropanediamine hydrochloride | Cl.[C@@H]1([C@H](C1)N)N
reactant | 5-chloroindole-2-carboxylic acid | 546 mg | ClC=1C=C2C=C(NC2=CC1)C(=O)O | C9H6ClNO2
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | (±)-cis-N-[(5-Chloroindol-2-yl)carbonyl]-1,2-cyclopropanediamine | 110 mg | ClC=1C=C2C=C(NC2=CC1)C(=O)N[C@H]1[C@H](C1)N | C12H12ClN3O
